US07402592B2
Ethyl 6-hydroxy-6-(3-pyridinyl)-3-azabicyclo[3.2.1]octane-3-carboxylate
To a solution of 3-bromopyridine (1.04 g, 6.58 mmol) in dry diethyl ether (20 ml) at −78° C. was added 2.5 M n-butyllithium (2.63 ml, 6.6 mmol). The reaction was stirred for 30 min under nitrogen. The pyridinyllithium solution was then slowly transferred by cannula into a solution of ethyl 6-oxo-3-azabicyclo[3.2.1]octane-3-carboxylate (1.00 g, 5.07 mmol) in THF (10 ml) at −78° C. The reaction was stirred 4 h at −78° C. and then quenched with saturated aqueous ammonium chloride (10 ml). The reaction was then extracted with chloroform (3×25 ml), the combined extracts dried over sodium sulfate, filtered, and concentrated by rotary evaporation. Excess pyridine was removed by repeated azeotropic rotary evaporation with toluene to yield the desired product (1.20 g, 86%).

reactant | 3-bromopyridine | 6.58 mmol, 1.04 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | n-butyllithium | 6.6 mmol, 2.5 M, 2.63 ml | C(CCC)[Li]
reactant | pyridinyllithium | N1=C(C=CC=C1)[Li]
reactant | ethyl 6-oxo-3-azabicyclo[3.2.1]octane-3-carboxylate | 5.07 mmol, 1.00 g | O=C1C2CN(CC(C1)C2)C(=O)OCC | C10H15NO3
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | Ethyl 6-hydroxy-6-(3-pyridinyl)-3-azabicyclo[3.2.1]octane-3-carboxylate | 1.20 g, 86% | OC1(C2CN(CC(C1)C2)C(=O)OCC)C=2C=NC=CC2 | C15H20N2O3
